US05286721
To a solution of 70.2 g of ethyl 2-(N-benzylaminomethyl)-3-t-butyldimethylsilyloxybutanoate in methanol (100 ml) was added portionwise 10.0 g of 10% wet palladium on carbon under nitrogen atmosphere. The mixture was shaken vigorously under 3.5 atmospheric pressure of hydrogen. After 8 hours, palladium on carbon was filtered off and washed with chloroform. The filtrate was evaporated to dryness under reduced pressure to give 50.3 g of crude ethyl 2-aminomethyl-3-t-butyldimethylsilyloxybutanoate.

reactant | ethyl 2-(N-benzylaminomethyl)-3-t-butyldimethylsilyloxybutanoate | 70.2 g | C(C1=CC=CC=C1)NCC(C(=O)OCC)C(C)O[Si](C)(C)C(C)(C)C | C20H35NO3Si
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 10.0 g | [Pd] | Pd
product | ethyl 2-aminomethyl-3-t-butyldimethylsilyloxybutanoate | 50.3 g | NCC(C(=O)OCC)C(C)O[Si](C)(C)C(C)(C)C | C13H29NO3Si
